US06951870B2
(1a) 2-Hydroxy-3,4-dimethoxy-5-nitro-benzaldehyde
To a solution of 3,4-dimethoxy-2-hydroxybenzaldehyde (0.5 g) in acetic acid (10 ml) was added fuming nitric acid (0.12 ml). The reaction mixture was poured into ice water, the product extracted into ethyl acetate, washed with water, dried and evaporated. The product was triturated with water and filtered. Yield: 0.15 g.

reactant | 3,4-dimethoxy-2-hydroxybenzaldehyde | 0.5 g | COC=1C(=C(C=O)C=CC1OC)O | C9H10O4
reactant | nitric acid | 0.12 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-Hydroxy-3,4-dimethoxy-5-nitro-benzaldehyde | OC1=C(C=O)C=C(C(=C1OC)OC)[N+](=O)[O-] | C9H9NO6
